US08497264B2
In a 150-mL resealable vessel, the (S)-tert-butyl 2′-bromo-7′-iodo-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate (1.475 g, 2.58 mmol) was dissolved in dcm (10 mL), and 2,2,2-trifluoroacetic acid (1.989 mL, 25.8 mmol) was added. The vessel was sealed and placed in a 50° C. oil bath. After 2 h, the reaction was concentrated and the mixture was neutralized with 0.5 M aqueous Na2CO3 (15 mL) and the aqueous phase was extracted with 5% MeOH-dcm (3×33 mL). The organics were combined, washed with dilute brine (10 mL), dried over sodium sulfate and concentrated. The residue was purified by chromatography (5.5% MeOH/DCM) to afford (S)-2′-bromo-7′-iodo-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (151 mg, 0.321 mmol). MS (m/z) 471/473 (M+H)+.

reactant | (S)-tert-butyl 2′-bromo-7′-iodo-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate | 2.58 mmol, 1.475 g | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)I)COCC(=N3)NC(OC(C)(C)C)=O | C21H20BrIN2O4
reactant | 2,2,2-trifluoroacetic acid | 25.8 mmol, 1.989 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-2′-bromo-7′-iodo-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 0.321 mmol, 151 mg | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)I)COCC(=N3)N | C16H12BrIN2O2
